US04566898
(1-Methylethyl)-2-(aminosulfonyl)-4-chlorobenzoate
Anhydrous hydrogen chloride was passed into a mixture of 773.7 g of 6-chloro-1,2-benzothiazole-3-one-1,1-dioxide and 7 L of 2-propanol until the mixture was saturated (7.5 hr.). The mixture was heated at reflux (80° C.) for 1.5 hr., then cooled to 0° C. The precipitated solids were collected and dried to give 893.9 g of the title compound, m.p. 143°-145° C. A second crop (44.5 g, m.p. 140°-142° C.) and third crop (125 g, m.p. 133°-135° C.) were obtained by concentrating the mother liquors in vacuo.

reactant | hydrogen chloride | Cl | ClH
reactant | 6-chloro-1,2-benzothiazole-3-one-1,1-dioxide | 773.7 g | ClC1=CC2=C(C(NS2(=O)=O)=O)C=C1 | C7H4ClNO3S
reactant | 2-propanol | 7 L | CC(C)O | C3H8O
product | (1-Methylethyl)-2-(aminosulfonyl)-4-chlorobenzoate | 893.9 g | CC(C)OC(C1=C(C=C(C=C1)Cl)S(=O)(=O)N)=O | C10H12ClNO4S
